US08859814B2
A suspension of α-amino-γ-butyrolactone hydrobromide in 30% HBr in HOAc is heated at 100° C. in a sealed tube for 5 days. The mixture is concentrated to give a white solid that is washed with ether to provide 23.1 g (64%) of 2-amino-4-bromo-butyric acid hydrobromide. Acetyl chloride (61 mL, 860 mmol) is added dropwise to 200 mL of MeOH at 0° C. The mixture is stirred at rt for 30 min before 22.5 g (124 mmol) of 2-amino-4-bromo-butyric acid hydrobromide is added. The mixture is stirred overnight and concentrated. The residue is washed with ether to provide 23.5 g (82%) of methyl 4-bromo-2-amino-butyrate hydrochloride. A solution of 27.7 g (330 mmol) of NaHCO3 in 100 mL of water is slowly added to 19.2 g (82.5 mmol) of this material along with 21.6 g (99.0 mmol) of Boc2O in 140 mL of 1,4-dioxane at 0° C. The mixture is warmed to rt and stirred overnight. N,N-dimethyl propane-1,3-diamine (5 mL) is added to the mixture, and it is stirred for 20 min. The mixture is diluted with water then extracted twice with EtOAc. The extracts are washed with water, 1M NaHSO4, and brine, and then combined, dried with Na2SO4, filtered, and concentrated to provide 21.5 g (88%) of 4-bromo-2-tert-butoxycarbonylamino-butyric acid methyl ester as a white solid. To 10 g (34 mmol) of the bromide in 80 mL of acetone is added 15 g (100 mmol) of NaI and the mixture is heated to 60° C. for 2 h. After cooling to rt, Et2O is added, and the resulting precipitate is filtered off. The filtrate is concentrated to provide 12 g (99%) of 4-iodo-2-tert-butoxycarbonylamino-butyric acid methyl ester.

reactant | Acetyl chloride | 860 mmol, 61 mL | C(C)(=O)Cl | C2H3ClO
reactant | 2-amino-4-bromo-butyric acid hydrobromide | 124 mmol, 22.5 g | Br.NC(C(=O)O)CCBr
solvent | MeOH | 200 mL | CO | CH4O
product | methyl 4-bromo-2-amino-butyrate hydrochloride | 23.5 g, 82% | Cl.BrCCC(C(=O)OC)N | InChI=1S/C5H10BrNO2.ClH/c1-9-5(8)4(7)2-3-6;/h4H,2-3,7H2,1H3;1H
